US08937087B2
Under a nitrogen gas flow, to a mixture of NaH (55% in oil, 35 mg) and DMF (4 mL) was added a mixture of N-[(5-chloro-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide (335 mg) and DMF (10 mL) under ice-cooling, followed by stirring at room temperature for 30 minutes. The reaction mixture was ice-cooled and methyl iodide (55 μL) was added thereto, followed by stirring at room temperature overnight. The reaction mixture was added to water, followed by extraction with EtOAc. The organic layer was washed with brine and dried over Na2SO4, and then concentrated under reduced pressure. To the residue was added chloroform. The resulting solid was collected and then washed with chloroform. To a mixture of the obtained solid and MeOH (3 mL) was added 4 M hydrogen chloride/EtOAc (300 μL), followed by stirring at room temperature. The reaction mixture was concentrated under reduced pressure, and to the residue was added EtOAc. The resulting solid was collected and then washed with EtOAc to obtain N-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide hydrochloride (60 mg).

reactant | NaH | 35 mg | [H-].[Na+]
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | N-[(5-chloro-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide | 335 mg | ClC1=CC2=C(NC(=N2)CN(C(CN2C(SC3=C2C=C(C=C3)Cl)=O)=O)C)C=C1 | C18H14Cl2N4O2S
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | methyl iodide | 55 μL | CI | CH3I
solvent | water | O | H2O
product | N-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide hydrochloride | 60 mg | Cl.ClC1=CC2=C(N(C(=N2)CN(C(CN2C(SC3=C2C=C(C=C3)Cl)=O)=O)C)C)C=C1 | InChI=1S/C19H16Cl2N4O2S.ClH/c1-23(9-17-22-13-7-11(20)3-5-14(13)24(17)2)18(26)10-25-15-8-12(21)4-6-16(15)28-19(25)27;/h3-8H,9-10H2,1-2H3;1H
